US07388019B2
Step D: 5-Ethyl-5,6,7,8-tetrahydropyrido[3,4-b]pyrazine dihydrochloride
A solution methanolic hydrogen chloride (approx. 1.6M, 1.5 mL) was added to tert-butyl 5-ethyl-7,8-dihydropyrido[3,4-b]pyrazine-6(5H)-carboxylate (29 mg, 0.11 mmol) dissolved in 0.25 mL of methanol. After 3.5 h, the solution was concentrated under a stream of nitrogen. Methanol (two portions) was added, with evaporation of the solvent after each addition, to give the title compound as a hygroscopic foam. 1H NMR (500 MHz, CD3OD) δ 8.57 (d, 1H, J=3 Hz), 8.54 (d, 1, J=3 Hz), 4.57 (dd, 1H, J=8, 5 Hz), 3.77 (ddd, 1H, J=13, 6, 5 Hz), 3.59 (ddd, 1H, J=10, 6 Hz), 3.37 (ddd, 1H, J=18, 10, 7 Hz), 3.35 (dt, 1H, J=18, 5 Hz), 2.51-2.41 (m, 1H), 2.06-1.96 (m, 1H), 1.18 (t, 3H, J=8 Hz). LC/MS 164 (M+1).

reactant | hydrogen chloride | approx. 1.6M, 1.5 mL | Cl | ClH
reactant | tert-butyl 5-ethyl-7,8-dihydropyrido[3,4-b]pyrazine-6(5H)-carboxylate | 0.11 mmol, 29 mg | C(C)C1N(CCC=2C1=NC=CN2)C(=O)OC(C)(C)C | C14H21N3O2
solvent | methanol | 0.25 mL | CO | CH4O
product | 5-Ethyl-5,6,7,8-tetrahydropyrido[3,4-b]pyrazine dihydrochloride | Cl.Cl.C(C)C1NCCC=2C1=NC=CN2 | InChI=1S/C9H13N3.2ClH/c1-2-7-9-8(3-4-10-7)11-5-6-12-9;;/h5-7,10H,2-4H2,1H3;2*1H
